US07727989B2
b) 6-Thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl) -1H-benzimidazol-2-yl]-2H-pyridazin-3-one
44 mg of 6-chloro-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one, 14 mg of thiophene-3-boronic acid and 36 mg of potassium carbonate are dissolved 1.5 ml of a 1:2 mixture of water and dimethoxyethane, and argon is passed through the solution for degassing. Addition of 7 mg of (1,1′-bis(diphenylphosphine) -ferrocene)palladium(II) chloride-dichloromethane complex is followed by stirring at 85° C. for 4 hours. For workup, it is diluted with water and extracted several times with ethyl acetate. The combined organic phases are dried using a silica gel cartridge, and the solvent is distilled off. The crude product is purified by silica gel chromatography (n-heptane/ethyl acetate).

reactant | 6-chloro-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | 44 mg | ClC=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C23H35ClN4O3Si2
reactant | thiophene-3-boronic acid | 14 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 6-Thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl) -1H-benzimidazol-2-yl]-2H-pyridazin-3-one | S1C=C(C=C1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C27H38N4O3SSi2
